US06410536B1
In this situation the aldehyde, such as 3-bromobenzaldehyde as a representative example, is reacted with malonitrile in the presence of catalytic piperidine in a solvent such as dioxane to afford the 2-[(3-bromophenyl)methylene]malononitrile.

reactant | 3-bromobenzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | malonitrile | C(C(O)CC#N)#N | C4H4N2O
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[(3-bromophenyl)methylene]malononitrile | BrC=1C=C(C=CC1)C=C(C#N)C#N | C10H5BrN2
